US08604034B2
7-bromo-10a-[4-(hydroxymethyl)phenyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (84 mg, 0.23 mmol), dichlorobis(triphenylphosphine)palladium(II) (6.5 mg, 9.3 μmol), 3-pyridine boronic acid (34 mg, 0.28 mmol) and an aqueous solution of sodium carbonate (2M) (58 mg, 28.8 μl, 0.41 mmol) were suspended in a mixture of 1,2-dimethoxyethane (2.5 mL), ethanol (200 μL) and water (300 μL). The reaction vessel was flushed with argon and heated at 120° C. After 45 minutes the reaction was complete. The mixture was diluted with CH2Cl2 (5 mL) then washed with H2O. The aqueous was extracted with CH2Cl2 (2×5 mL). The combined organic was evaporated to dryness to give crude 10a-[4-(hydroxymethyl)phenyl]-7-(pyridin-3-yl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (80 mg) that was used in the next step without further purification. ESI-MI m/z [M+H]+ 361.9.

reactant | 7-bromo-10a-[4-(hydroxymethyl)phenyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 0.23 mmol, 84 mg | BrC=1C=C2N(CC3(N(C2=O)CCN3)C3=CC=C(C=C3)CO)C1 | C16H16BrN3O2
reactant | 3-pyridine boronic acid | 0.28 mmol, 34 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 0.41 mmol, 2M, 28.8 μl, 58 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 200 μL | C(C)O | C2H6O
solvent | 1,2-dimethoxyethane | 2.5 mL | COCCOC | C4H10O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 9.3 μmol, 6.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 300 μL | O | H2O
product | 10a-[4-(hydroxymethyl)phenyl]-7-(pyridin-3-yl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 80 mg | OCC1=CC=C(C=C1)C12N(C(C=3N(C1)C=C(C3)C=3C=NC=CC3)=O)CCN2 | C21H20N4O2
